US07687491B2
(12c) 1-({4-Methyl-5-[5-(4-phenoxyphenyl)-1,2,4-oxadiazol-3-yl]-2-thienyl}methyl)azetidine-3-carboxylic acid
The title compound (0.16 g) was synthesized in a yield of 85% as a white crystalline solid by conducting the reaction similar to that mentioned in Example 3 (3e) using methyl 1-({4-methyl-5-[5-(4-phenoxyphenyl)-1,2,4-oxadiazol-3-yl]-2-thienyl}methyl)azetidine-3-carboxylate (0.20 g, 0.42 mmol) that was obtained in Example 12 (12b) and a 1 N aqueous solution of sodium hydroxide (1.3 mL, 1.3 mmol).

reactant | methyl 1-({4-methyl-5-[5-(4-phenoxyphenyl)-1,2,4-oxadiazol-3-yl]-2-thienyl}methyl)azetidine-3-carboxylate | 0.42 mmol, 0.20 g | CC=1C=C(SC1C1=NOC(=N1)C1=CC=C(C=C1)OC1=CC=CC=C1)CN1CC(C1)C(=O)OC | C25H23N3O4S
reactant | sodium hydroxide | 1.3 mmol, 1.3 mL | [OH-].[Na+]
product | 1-({4-Methyl-5-[5-(4-phenoxyphenyl)-1,2,4-oxadiazol-3-yl]-2-thienyl}methyl)azetidine-3-carboxylic acid | 0.16 g, yield of 85% | CC=1C=C(SC1C1=NOC(=N1)C1=CC=C(C=C1)OC1=CC=CC=C1)CN1CC(C1)C(=O)O | C24H21N3O4S
